US05403842
8-acrylamido-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate X)
A solution of 1.75 ml of acryloyl chloride in 15 ml of anhydrous tetrahydrofuran was added dropwise at -10° C. to a stirred mixture of 5 g of 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran and 3 ml of triethylamine in 60 ml of anhydrous tetrahydrofuran. After stirring at 0° C. for 1 hour and at ambient temperature for 1 hour, the reaction mixture was poured into water and filtered under suction. The filter cake was washed with water. Desiccation gave 5.5 g of the title compound, m.p. 229°-230° C.

reactant | acryloyl chloride | 1.75 ml | C(C=C)(=O)Cl | C3H3ClO
reactant | 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5 g | NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H13NO2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 8-acrylamido-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5.5 g | C(C=C)(=O)NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C19H15NO3
